US06489487B1
To a solution of 5.75 g (50 mmol) of 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one in 30 ml of acetonitrile was added 6.21 g (45 mmol) of potassium carbonate. A solution of 13.54 g of crude 5-bromo-2-fluorobenzylbromide in 50 ml of acetonitrile was added dropwise at 55° C. thereto. After the mixture was stirred at 55° C. for 2.5 hours, 1.15 g of 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one and 1.24 g of potassium carbonate were added thereto and then the mixture was stirred at 55° C. for 3 hours. Water was added to the reaction mixture and the mixture was extracted with a mixed solvent of ethyl acetate and tert-butyl methyl ether. The organic layer was washed with water, dried and concentrated. Then, to the semisolid residue (13.37 g) was added a mixture of equal amounts of tert-butyl methyl ether and hexane, then stirred for a while and cooled. The resultant solid was collected by filtration to obtain 3.64 g of 4-(5-bromo-2-fluorobenzyl)-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one as white powder.

reactant | 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 50 mmol, 5.75 g | COC=1NC(NN1)=O | C3H5N3O2
reactant | potassium carbonate | 45 mmol, 6.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2-fluorobenzylbromide | 13.54 g | BrC=1C=CC(=C(CBr)C1)F | C7H5Br2F
reactant | 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.15 g | COC=1NC(NN1)=O | C3H5N3O2
reactant | potassium carbonate | 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(5-bromo-2-fluorobenzyl)-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 3.64 g | BrC=1C=CC(=C(CN2C(NN=C2OC)=O)C1)F | C10H9BrFN3O2
